US08227506B2
Step 2. Synthesis of 4-[imino(pyrrolidin-1-yl)methyl]benzoic acid hydrochloride.
4-Cyanobenzoic acid (10.0 g, 68.0 mmol) was dissolved in anhydrous ethanol (10 ml) and 4N hydrochloric acid/1,4-dioxane 90 ml, and the mixture was stirred in a closed system at room temperature for two nights, and further stirred in an open system for at 35° C. 3 hours. The solvent was evaporated under reduced pressure, and the obtained residue was suspended in anhydrous ethanol (100 ml), and pyrrolidine (11.4 ml, 136 mmol) was added thereto, and the mixture was stirred at room temperature overnight. The precipitated crystals were collected by filtration, and washed with diethyl ether containing a small amount of 4N hydrochloric acid/1,4-dioxane, and the crystals were collected by filtration to give the title compound.

reactant | 4-Cyanobenzoic acid | 68.0 mmol, 10.0 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | pyrrolidine | 136 mmol, 11.4 ml | N1CCCC1 | C4H9N
reactant | hydrochloric acid 1,4-dioxane | 4N, 90 ml | Cl.O1CCOCC1
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[imino(pyrrolidin-1-yl)methyl]benzoic acid hydrochloride | Cl.N=C(C1=CC=C(C(=O)O)C=C1)N1CCCC1 | InChI=1S/C12H14N2O2.ClH/c13-11(14-7-1-2-8-14)9-3-5-10(6-4-9)12(15)16;/h3-6,13H,1-2,7-8H2,(H,15,16);1H
